** sch_path: /home/tim/gits/sky130_ef_ip__rc_osc_16M/xschem/sky130_ef_ip__rc_osc_16M.sch
**.subckt sky130_ef_ip__rc_osc_16M ena dvdd avdd dvss avss dout
*.PININFO avdd:B avss:B dvss:B dvdd:B ena:I dout:O
XM1 net1 out0 net10 avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM2 net1 out0 net9 avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM3 net2 net1 net8 avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM4 net2 net1 net11 avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM5 dout dout0 dvss dvss sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 m=1
XM6 net5 dout0 dvdd dvdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 m=1
XM9 net3 net2 net7 avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM10 net3 net2 net6 avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM11 dout0 out0 dvdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1.26 nf=1 m=1
XM12 net4 out0 avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM13 dout0 ena net4 avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM24 net9 pbias avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM25 net8 pbias avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM26 net7 pbias avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM27 net6 nbias avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM28 net11 nbias avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM29 net10 nbias avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM21 nbias nbias avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM22 pbias pbias avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=2.52 nf=1 m=1
XR1 net18 avdd avss sky130_fd_pr__res_xhigh_po_0p35 L=112.5 mult=1 m=1
XM23 net18 ena_h nbias avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM30 net12 nbias avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM33 nbias enb_h avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM34 pbias ena_h avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM36 pbias ena_h net12 avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
x1 dvdd ena_h avdd enb_h ena dvss avss enb rc_osc_level_shifter
XD3 dvss ena sky130_fd_pr__diode_pw2nd_05v5 area=2.025e11 perim=4e6
XM7 net13 net3 net16 avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM8 net13 net3 net17 avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM15 out0 net13 net15 avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM16 out0 net13 net14 avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM17 net16 pbias avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM18 net15 pbias avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM19 net14 nbias avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM20 net17 nbias avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM43 dout0 ena dvdd dvdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 m=1
XM35 dout enb dvss dvss sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 m=1
XM14 dout enb net5 dvdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 m=1
XR2 avdd avdd avss sky130_fd_pr__res_xhigh_po_0p35 L=787.5 mult=1 m=1
**.ends

* expanding   symbol:  rc_osc_level_shifter.sym # of pins=8
** sym_path: /home/tim/gits/sky130_ef_ip__rc_osc_16M/xschem/rc_osc_level_shifter.sym
** sch_path: /home/tim/gits/sky130_ef_ip__rc_osc_16M/xschem/rc_osc_level_shifter.sch
.subckt rc_osc_level_shifter dvdd out_h avdd outb_h in_l dvss avss inb_l
*.PININFO in_l:I dvdd:B avdd:B dvss:B avss:B out_h:O outb_h:O inb_l:O
XM7 inb_l in_l dvdd dvdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 m=1
XM8 inb_l in_l dvss dvss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM15 out_h outb_h net1 avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM16 outb_h out_h net2 avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM17 outb_h in_l avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM18 out_h inb_l avss avss sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM19 net1 out_h avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
XM20 net2 outb_h avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=0.42 nf=1 m=1
.ends

.end
